US05489570
A solution of methyl 4-chloro-3-methoxybenzo[b]thiophene-5-carboxylate (3.95 g) in dry tetrahydrofuran was added to sodium hydride (60%, 1.355 g) and stirred under an inert atmosphere with warming to 50°-60° C. Cyclopropyl methyl ketone (2.59 g) was added with stirring at 50°-60° C. for 3 hours. After this time the reaction exothermed and was heated at 50°-60° C. for a further 1.5 hours. After cooling, isopropanol (5 ml) was cautiously added, followed by water (5 ml). The mixture was poured onto 2N hydrochloric acid and extracted with ether. The ether extracts were dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was purified by column chromatography on silica gel, eluting with ether/cyclohexane to yield 5-(3-cyclopropyl-1,3-dioxoprop-1-yl)-3,4-dimethoxybenzo[b]thiophene as a yellow solid (1.47 g), m.p. 77.5°-80° C.

reactant | methyl 4-chloro-3-methoxybenzo[b]thiophene-5-carboxylate | 3.95 g | ClC1=C(C=CC=2SC=C(C21)OC)C(=O)OC | C11H9ClO3S
reactant | sodium hydride | 1.355 g | [H-].[Na+]
reactant | Cyclopropyl methyl ketone | 2.59 g | CC(=O)C1CC1 | C5H8O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 5-(3-cyclopropyl-1,3-dioxoprop-1-yl)-3,4-dimethoxybenzo[b]thiophene | 1.47 g | C1(CC1)C(CC(=O)C1=C(C2=C(SC=C2OC)C=C1)OC)=O | C16H16O4S
